US04496584
Synthesis of 6-amidino-2-naphthyl caprate (Compound No. 5).
To a solution of 3.0 g of capric acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate was separated by filtration and washed with a small volume of pyridine. The filtrate and washings were poured into stirred ethyl ether. The precipitated crystals were collected by filtration, washed with ethyl ether, then with acetone, and recrystallized from a methanol-ether mixture to yield 1.2 g of a white powder of 6-amidino-2-naphthyl caprate methanesulfonate.

reactant | capric acid | 3.0 g | OC(=O)CCCCCCCCC | C10H20O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl caprate | 1.2 g | O(C(=O)CCCCCCCCC)C1=CC2=CC=C(C=C2C=C1)C(N)=N | C21H28N2O2
